.SUBCKT sg13g2_buf_32 VSS X A VDD
M$1 VSS A \$4 VSS sg13_lv_nmos L=0.13u W=0.55u AS=0.18685p AD=0.1835p PS=1.54u
+ PD=1.79u
M$2 VSS \$4 X VSS sg13_lv_nmos L=0.13u W=23.68u AS=6.32705p AD=4.6176p
+ PS=50.68u PD=36.16u
M$34 VDD A \$4 VDD sg13_lv_pmos L=0.13u W=0.84u AS=0.2578p AD=0.2763p PS=1.92u
+ PD=2.37u
M$35 VDD \$4 X VDD sg13_lv_pmos L=0.13u W=35.84u AS=7.7662p AD=7.9652p
+ PS=54.88u PD=56.66u
.ENDS sg13g2_buf_32
